Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
STEMI
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
Mr. ___ is a ___ year old male with PMH of OSA on BiPAP who 
initially presented to ___ with substernal chest 
pressure radiating to both arms and jaw with associated nausea 
found to have STE in V2-V6, I and aVL, and STD II, III, and aVF 
c/f STEMI now transferred to ___ for emergent coronary 
angiography. 

The patient states that yesterday evening, he developed chest 
pressure shortly after taking "poppers" and engaging in sexual 
intercourse with his husband. The pain was sudden in onset and 
was described as a central chest pressure radiating to both arms 
and jaw. Had associated nausea. Initially thought it was due to 
indigestion and tried to drink seltzer water, however, his 
symptoms persisted and he began to vomit. He decided to go to 
___ for further management.

At ___, EKG notable for STE in V2-V6, I and aVL and STD II, 
III, and aVF concerning for STEMI. He was loaded with aspirin 
and transferred to ___ for emergent cardiac catheterization. 

At ___, coronary angiography revealed 100% occlusion of ___ 
LAD. No significant right coronary or LCx disease. 2 ___ 
were placed without complication. During the procedure, he 
received tirofoban with plans to transition to ticagrelor. He 
tolerated the procedure well and was transferred to the CCU for 
further monitoring.
 
On arrival to the CCU:  the patient is awake and alert. He 
complains of mild chest pressure that is much improved from 
prior. No SOB, palpitations, lightheadedness, fevers or chills. 
He denies any history of chest pain or SOB with exertion.
 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes (-) 
- Hypertension (-)  
- Dyslipidemia  
2. CARDIAC HISTORY  
-No known cardiac history 
3. OTHER PAST MEDICAL HISTORY  
-Hiatal hernia
-OSA on BiPAP

 
Social History:
___
Family History:
Uncle with MI in his ___
Father with suspected missed MI at early age 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
====================================
VS: 99  134/81  102  16  97%RA 
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor 
NECK: Supple. JVP not elevated  
CARDIAC: RR, no m/r/g 
LUNGS: CTAB no r/r/w.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
LABS AND MICROBIOLOGY: Reviewed in OMR.  

DISCHARGE PHYSICAL EXAM:
=====================================
VS: 98.2  97/62 76 18 94 ra 
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor 
NECK: Supple. JVP not elevated  
CARDIAC: RR, no m/r/g 
LUNGS: CTAB no r/r/w.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION/IMPORTANT LABS
___ 04:38AM BLOOD WBC-20.4* RBC-4.99 Hgb-15.3 Hct-42.0 
MCV-84 MCH-30.7 MCHC-36.4 RDW-12.0 RDWSD-36.2 Plt ___
___ 05:50PM BLOOD ___ PTT-88.5* ___
___ 08:27AM BLOOD ___ PTT-150* ___
___ 06:36AM BLOOD ___ PTT-77.0* ___
___ 04:38AM BLOOD Glucose-113* UreaN-19 Creat-1.0 Na-138 
K-3.1* Cl-103 HCO3-16* AnGap-22*
___ 04:38AM BLOOD CK(CPK)-316
___ 05:50PM BLOOD CK(CPK)-3528*
___ 04:52AM BLOOD ALT-78* AST-245* LD(LDH)-1188* AlkPhos-55 
TotBili-1.3
___ 04:38AM BLOOD CK-MB-19* MB Indx-6.0 cTropnT-0.12*
___ 11:30AM BLOOD cTropnT-14.15*
___ 05:50PM BLOOD CK-MB-459* MB Indx-13.0* cTropnT-8.00*
___ 04:52AM BLOOD cTropnT-7.78*
___ 04:38AM BLOOD Calcium-9.6 Phos-2.2* Mg-1.7 Cholest-211*
___ 04:38AM BLOOD %HbA1c-4.8 eAG-91
___ 04:38AM BLOOD Triglyc-198* HDL-31 CHOL/HD-6.8 
LDLcalc-140*

DISCHARGE LABS
___ 06:36AM BLOOD WBC-9.0 RBC-4.48* Hgb-14.0 Hct-39.8* 
MCV-89 MCH-31.3 MCHC-35.2 RDW-12.2 RDWSD-39.8 Plt ___
___ 06:36AM BLOOD ___ PTT-77.0* ___
___ 06:36AM BLOOD Glucose-86 UreaN-16 Creat-1.2 Na-138 
K-4.3 Cl-102 HCO3-22 AnGap-18
___ 06:36AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.1

MICROBIOLOGY
NONE

IMAGING/STUDIES
TTE ___ left atrium and right atrium are normal in cavity 
size. No atrial septal defect is seen by 2D or color Doppler. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the basal anteroseptum, mid 
inferoseptum, and distal inferior and lateral walls, and 
akinesis of the mid anteroseptum, anterior, and distal left 
ventricle and apex. The remaining segments contract normally 
(Quantitative (biplane) LVEF = 43 %, visual LVEF 35-40%). No 
masses or thrombi are seen in the left ventricle. Doppler 
parameters are indeterminate for left ventricular diastolic 
function. There is no ventricular septal defect. Right 
ventricular chamber size is normal with borderline normal free 
wall function. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Mild 
(1+) mitral regurgitation is seen. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

 IMPRESSION: Regional left ventricular dysfunction c/w CAD (LAD 
territory), with mild-moderately depressed overall systolic 
function. Borderline right ventricular free wall systolic 
function. Mild mitral regurgitation. Mild pulmonary 
hypertension. 

CARDIAC CATH ___
Coronary Anatomy
Right dominant
LM: No disease
LAD: Proximal 100% thrombotic occlusion.
LCx: No significant disease.
RCA: No significant disease.
Impressions:
Proximal LAD occlusion - Anterior STEMI.
Successful PCI with overlapping 3.0 and 3.5 Promus Premier DES.
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with PMH of OSA on BiPAP who 
presented to OSH with substernal chest pressure found to have 
anterior STEMI s/p 2 DES placed to LAD admitted to the CCU for 
further management. Echo showed EF 43% and regional left 
ventricular dysfunction c/w CAD (LAD territory). He was also 
found to have apical akinesis so he was started on Coumadin with 
aspirin and Plavix for antiplatelet therapy for CAD. He was 
bridged with Lovenox.

# ACUTE CORONARY SYNDROME: See above
# OSA: Continued home BiPAP
# GERD: Continued ___ ranitidine
# Insominia: Continued home trazadone

TRANSITIONAL ISSUES:
[] INR on discharge 1.2. Discharged on warfarin 7.5 mg. Please 
recheck INR ___.
[] When warfarin therapeutic, discontinue lovenox.
[] Will need Warfarin ___ mos. followed by repeat echo: stop 
warfarin if apex is hypokinetic or better.
[] Follow up blood pressures and increase lisinopril dose as 
able.
[] Follow up heart rates and titrate metoprolol dose as able for 
goal HR ___.

# CODE: Full (confirmed)
# CONTACT/HCP: ___ (husband)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO BID 
2. TraZODone 50 mg PO QHS:PRN insonmia 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
4.  Enoxaparin Sodium 80 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg every twelve (12) hours Disp 
#*10 Syringe Refills:*0 
5.  Lisinopril 2.5 mg PO QHS 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
6.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3 
7.  Warfarin 7.5 mg PO DAILY16 
RX *warfarin [Coumadin] 7.5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
8.  Ranitidine 150 mg PO BID  
9.  TraZODone 50 mg PO QHS:PRN insonmia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
STEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It has been a pleasure taking care of you at ___.

Why was I here?
- You were admitted for chest pain.

What was done for me here?
- You were found to have a heart attack.
- You had a cardiac catheterization and stents placed in your 
LAD, one of your coronary arteries.
- You had an echocardiogram which showed that the bottom of your 
heart was not pumping well so you were started on blood 
thinners.
- You were started on medications to prevent future heart 
attacks.

What should I do when I leave the hospital?
- Please take all of your medications as prescribed.
- Please have your INR checked and when your INR is between ___ 
you can discontinue the Lovenox shots.
- You will need to follow up with your PCP and cardiology.

Sincerely,
Your ___ Team
 
Followup Instructions:
___